US04127604
By means of the funnel, there were then slowly added 8 g (0.064 mol) of di-n-propyl acetonitrile prepared by the above-described method. The mixture was heated to 80°-82° C. and was kept at this temperature for 2 hours. It was then cooled to 50°-52° C. and, while this temperature was maintained by gentle external cooling, a solution of 6.2 g (0.09 mol) of sodium nitrite in 10 ml of water was introduced under vigorous stirring and by means of the funnel. When the operation of introduction had been completed, the mixture was cooled to 20° C. under a gentle stream of nitrogen and 30 ml of water was added through the funnel. Stirring was maintained for 30 minutes and then the mixture was allowed to decant for 30 minutes into a separation funnel. The organic phase was separated and the aqueous phase was extracted with 10 ml of toluene. This toluenic phase was added to the crude di-n-propyl acetic acid obtained and the toluenic solution was extracted with a solution of 2.8 g of sodium hydroxide in 25 ml of water. After decantation, the toluenic phase was eliminated and the alkali aqueous phase acidified by adding 8 g of 36% by weight hydrochloric acid. After decantation, the organic phase was collected and the aqueous phase extracted with toluene. The two organic phases were combined and three successive washing operations with 8 ml of water carried out. The toluene was distilled at atmospheric pressure and a residue weighing 9 g, representing a yield of 97% of crude di-n-propyl acetic acid was obtained.

reactant | di-n-propyl acetonitrile | 0.064 mol, 8 g | C(CC)C(C#N)CCC | C8H15N
reactant | sodium nitrite | 0.09 mol, 6.2 g | N(=O)[O-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | water | 30 ml | O | H2O
product | di-n-propyl acetic acid | yield of 97% | C(CC)C(C(=O)O)CCC | C8H16O2
